US08703768B2
Step 1: 3-Amino-6-furan-2-yl-pyrazine-2-carboxylic acid methyl ester
A mixture of Pd(OAc)2 (146 mg, 0.7 mmol) and 1,1-bis(diphenylphosphino)ferrocene (478 mg, 0.9 mmol) in DMF (65 ml) under an argon atmosphere was stirred at 50° for 15 min and cooled to rt. The reaction mixture was evacuated, then flushed with argon. 3-Amino-6-bromopyrazine-2-carboxylic acid methyl ester (5.0 g, 21.5 mmol), 2-furanboronic acid (2.65 g, 23.7 mmol) and triethylamine (4.3 ml) were added. The reaction mixture was again evacuated, then flushed with argon. The mixture was heated at 90° overnight. After cooling to rt, the black mixture was concentrated to dryness. The residue was dissolved in dichloromethane (800 ml), washed with water, dried over MgSO4, filtered and evaporated. The crude product was purified by silica gel chromatography using a n-heptane/EtOAc gradient for elution, providing the title compound as yellow solid (2.84 g, 60%).

reactant | 3-Amino-6-bromopyrazine-2-carboxylic acid methyl ester | 21.5 mmol, 5.0 g | COC(=O)C1=NC(=CN=C1N)Br | C6H6BrN3O2
reactant | 2-furanboronic acid | 23.7 mmol, 2.65 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.7 mmol, 146 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 0.9 mmol, 478 mg | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 3-Amino-6-furan-2-yl-pyrazine-2-carboxylic acid methyl ester | 2.84 g, 60% | COC(=O)C1=NC(=CN=C1N)C=1OC=CC1 | C10H9N3O3
